US05635509
5-[(1RS,2SR)-2-(3,4-Dichlorophenyl)-1-hydroxy-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenyl-1,2,3-(1H)triazole
5-[(1RS,2SR)-1-acetoxy-2-(3,4-dichlorophenyl)-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenyl-1,2,3-(1H)-triazole. Using a procedure similar to that described in Example 7, except using 4-acetamido-4-phenylpiperidine as the amine component, and 5-[(1RS,2SR)-1-acetoxy-2-(3,4-dichlorophenyl)-4-oxobutyl]-1-phenyl-1,2,3-(1H)-triazole as the aldehyde component, the coupling product was prepared as a white foam (61%); NMR: 7.75 (s,1), 7.50-7.01 (m,10), 6.79 (d,1), 6.53 (dd,1), 5.94 (d, 1), 5.41 (s,H), 3.03 (m,1), 2.65-2.45 (m,2), 2.33 (m,2), 2.16 (s,3), 2.10-1.98 (m,6), 1.97 (s,3), 1.65 (broad m,2).

reactant | 5-[(1RS,2SR)-1-acetoxy-2-(3,4-dichlorophenyl)-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenyl-1,2,3-(1H)-triazole | C(C)(=O)OC(C(CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O)C1=CC(=C(C=C1)Cl)Cl)C1=CN=NN1C1=CC=CC=C1 | C33H35Cl2N5O3
reactant | 4-acetamido-4-phenylpiperidine | C(C)(=O)NC1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
reactant | 5-[(1RS,2SR)-1-acetoxy-2-(3,4-dichlorophenyl)-4-oxobutyl]-1-phenyl-1,2,3-(1H)-triazole | C(C)(=O)OC(C(CC=O)C1=CC(=C(C=C1)Cl)Cl)C1=CN=NN1C1=CC=CC=C1 | C20H17Cl2N3O3
product | 5-[(1RS,2SR)-2-(3,4-Dichlorophenyl)-1-hydroxy-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenyl-1,2,3-(1H)triazole | ClC=1C=C(C=CC1Cl)C(C(O)C1=CN=NN1C1=CC=CC=C1)CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O | C31H33Cl2N5O2
